************************************************************************
* auCdl Netlist:
* 
* Library Name:  2024_project_circuit
* Top Cell Name: nand16_select_mux_1st
* View Name:     schematic
* Netlisted on:  Nov 28 11:58:33 2024
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE METER
*.MEGA



************************************************************************
* Library Name: 2024_project_circuit
* Cell Name:    nand4
* View Name:    schematic
************************************************************************

.SUBCKT nand4 in_A in_B in_C in_D out vdd vss
*.PININFO in_A:I in_B:I in_C:I in_D:I out:O vdd:B vss:B
MM7 net56 in_D vss vss nmos W=nw L=45n
MM2 net54 in_C net56 vss nmos W=nw L=45n
MM1 net55 in_B net54 vss nmos W=nw L=45n
MM0 out in_A net55 vss nmos W=nw L=45n
MM6 out in_D vdd vdd pmos W=pw L=45n
MM5 out in_C vdd vdd pmos W=pw L=45n
MM4 out in_B vdd vdd pmos W=pw L=45n
MM3 out in_A vdd vdd pmos W=pw L=45n
.ENDS

************************************************************************
* Library Name: Test1
* Cell Name:    inverter
* View Name:    schematic
************************************************************************

.SUBCKT inverter in out vdd vss
*.PININFO in:I out:O vdd:B vss:B
MM0 out in vss vss nmos W=nw L=45n
MM1 out in vdd vdd pmos W=pw L=45n
.ENDS

************************************************************************
* Library Name: 2024_project_circuit
* Cell Name:    nand2
* View Name:    schematic
************************************************************************

.SUBCKT nand2 in_A in_B out vdd vss
*.PININFO in_A:I in_B:I out:O vdd:B vss:B
MM1 net7 in_B vss vss nmos W=nw L=45n
MM0 out in_A net7 vss nmos W=nw L=45n
MM3 out in_B vdd vdd pmos W=pw L=45n
MM2 out in_A vdd vdd pmos W=pw L=45n
.ENDS

************************************************************************
* Library Name: 2024_project_circuit
* Cell Name:    nor2
* View Name:    schematic
************************************************************************

.SUBCKT nor2 in_A in_B out vdd vss
*.PININFO in_A:I in_B:I out:O vdd:B vss:B
MM1 out in_B vss vss nmos W=nw L=45n
MM0 out in_A vss vss nmos W=nw L=45n
MM3 out in_A net4 vdd pmos W=pw L=45n
MM2 net4 in_B vdd vdd pmos W=pw L=45n
.ENDS

************************************************************************
* Library Name: 2024_project_circuit
* Cell Name:    nand16_select_mux_1st
* View Name:    schematic
************************************************************************

*.PININFO in1:I out:O vdd:B vss:B
XI10 temp9 vdd vdd vdd out vdd vss / nand4 pw=2.707e-05 nw=6.985e-05
XI8 temp7 vdd vdd vdd temp8 vdd vss / nand4 pw=1.203e-05 nw=3.105e-05
XI0 in1 vdd vdd vdd temp1 vdd vss / nand4 pw=1.86e-06 nw=4.8e-06
XI4 temp3 temp4 vdd vss / inverter pw=2.605e-05 nw=1.681e-05
XI1 temp1 temp2 vdd vss / inverter pw=5.05e-06 nw=3.26e-06
XI2 temp8 vdd temp9 vdd vss / nand2 pw=2.284e-05 nw=2.948e-05
XI7 temp6 vdd temp7 vdd vss / nand2 pw=1.016e-05 nw=1.311e-05
XI5 temp4 vdd temp5 vdd vss / nand2 pw=4.945e-05 nw=6.381e-05
XI3 temp2 vdd temp3 vdd vss / nand2 pw=9.59e-06 nw=1.238e-05
XI14 temp5 vss net210 vdd vss / nor2 pw=1.07e-05 nw=3.45e-06
XI15 temp5 vss net209 vdd vss / nor2 pw=1.07e-05 nw=3.45e-06
XI16 temp5 vss net207 vdd vss / nor2 pw=1.07e-05 nw=3.45e-06
XI9 temp5 vss net214 vdd vss / nor2 pw=1.07e-05 nw=3.45e-06
XI11 temp5 vss net213 vdd vss / nor2 pw=1.07e-05 nw=3.45e-06
XI12 temp5 vss net212 vdd vss / nor2 pw=1.07e-05 nw=3.45e-06
XI13 temp5 vss net211 vdd vss / nor2 pw=1.07e-05 nw=3.45e-06
XI24 temp5 vss net200 vdd vss / nor2 pw=1.07e-05 nw=3.45e-06
XI23 temp5 vss net202 vdd vss / nor2 pw=1.07e-05 nw=3.45e-06
XI22 temp5 vss net201 vdd vss / nor2 pw=1.07e-05 nw=3.45e-06
XI21 temp5 vss net203 vdd vss / nor2 pw=1.07e-05 nw=3.45e-06
XI20 temp5 vss net204 vdd vss / nor2 pw=1.07e-05 nw=3.45e-06
XI19 temp5 vss net205 vdd vss / nor2 pw=1.07e-05 nw=3.45e-06
XI18 temp5 vss net206 vdd vss / nor2 pw=1.07e-05 nw=3.45e-06
XI17 temp5 vss net208 vdd vss / nor2 pw=1.07e-05 nw=3.45e-06
XI6 temp5 vss temp6 vdd vss / nor2 pw=1.07e-05 nw=3.45e-06
CC0 out vss 100f $[CP]
CC15 net200 vss 19.77f $[CP]
CC14 net201 vss 19.77f $[CP]
CC13 net202 vss 19.77f $[CP]
CC12 net203 vss 19.77f $[CP]
CC11 net204 vss 19.77f $[CP]
CC10 net205 vss 19.77f $[CP]
CC9 net206 vss 19.77f $[CP]
CC8 net207 vss 19.77f $[CP]
CC7 net208 vss 19.77f $[CP]
CC6 net209 vss 19.77f $[CP]
CC5 net210 vss 19.77f $[CP]
CC4 net211 vss 19.77f $[CP]
CC3 net212 vss 19.77f $[CP]
CC2 net213 vss 19.77f $[CP]
CC1 net214 vss 19.77f $[CP]

